US07157482B2
(5R)-3-(3-Fluorophenyl)-5-[(4-methyl-1H-1,2,3-triazol-1-yl)methyl]-1,3-oxazolidin-2-one
N,N-Diisopropylethylamine (3.20 ml, 18.35 mmol) was added to a solution of (5S)-5-(aminomethyl)-3-(3-fluorophenyl)-1,3-oxazolidin-2-one (0.77 g, 3.57 mmol) (see Patent Application: Dong Pharmaceuticals WO 01/94342) in anhydrous methanol (25 ml). The solution was cooled to 0° C., and N′-[2,2-dichloro-1-methylethylidene]-4-methylbenzenesulfonohydrazide (1.28 g, 4.58 mmol) was added. The solution was warmed to room temperature and stirred overnight. The reaction mixture was then concentrated under vacuum and chromatographed on silica gel using 2% methanol/dichloromethane to give 0.71 g of the title product.

reactant | N,N-Diisopropylethylamine | 18.35 mmol, 3.20 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (5S)-5-(aminomethyl)-3-(3-fluorophenyl)-1,3-oxazolidin-2-one | 3.57 mmol, 0.77 g | NC[C@H]1CN(C(O1)=O)C1=CC(=CC=C1)F | C10H11FN2O2
reactant | N′-[2,2-dichloro-1-methylethylidene]-4-methylbenzenesulfonohydrazide | 4.58 mmol, 1.28 g | ClC(C(C)=NNS(=O)(=O)C1=CC=C(C=C1)C)Cl | C10H12Cl2N2O2S
solvent | methanol | 25 ml | CO | CH4O
product | (5R)-3-(3-Fluorophenyl)-5-[(4-methyl-1H-1,2,3-triazol-1-yl)methyl]-1,3-oxazolidin-2-one | 0.71 g | FC=1C=C(C=CC1)N1C(O[C@H](C1)CN1N=NC(=C1)C)=O | C13H13FN4O2
